US06797718B2
Sodium hydride (7.80 g of a 60% dispersion in mineral oil, 195 mmol) was added in portions to a chilled (0° C.) solution of phenol (18.36 g, 195 mmol) in tetrahydrofuran (200 mL). After the addition was completed the reaction mixture was allowed to stir at ambient temperature for 30 minutes. Solid 3-[(2-chloro-5,6-dimethyl-3-nitropyridin-4-yl)amino]propan-1-ol (16.89 g, 65.0 mmol) was added and the reaction mixture was heated at reflux for 5 days. The reaction mixture was concentrated under reduced pressure. The residue was partitioned between ethyl acetate (400 mL) and water (100 mL). The organic layer was separated, washed with brine, dried over sodium sulfate, filtered and then concentrated under reduced pressure. The residue was purified by flash chromatography (500 mL silica gel eluting with a gradient of 30-75% ethyl acetate in hexanes) and then heated under high vacuum until it melted. The melt solidified to provide 11.54 g of 3-[(2,3-dimethyl-5-nitro-6-phenoxypyridin-4-yl)amino]propan-1-ol.

reactant | Sodium hydride | [H-].[Na+]
reactant | phenol | 195 mmol, 18.36 g | C1(=CC=CC=C1)O | C6H6O
reactant | 3-[(2-chloro-5,6-dimethyl-3-nitropyridin-4-yl)amino]propan-1-ol | 65.0 mmol, 16.89 g | ClC1=NC(=C(C(=C1[N+](=O)[O-])NCCCO)C)C | C10H14ClN3O3
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | 3-[(2,3-dimethyl-5-nitro-6-phenoxypyridin-4-yl)amino]propan-1-ol | 11.54 g | CC1=NC(=C(C(=C1C)NCCCO)[N+](=O)[O-])OC1=CC=CC=C1 | C16H19N3O4
